US07192684B2
Under a nitrogen atmosphere, a Grignard reagent solution was prepared from 100 g of chloromethyltrimethylsilane, 20 g of magnesium and 500 ml of diethyl ether. Under a nitrogen atmosphere, the Grignard reagent solution was slowly added dropwise to a solution of 80 g of ethyl(1-ethylcyclopentyl) oxalate (which had been prepared by reacting ethyl chloroglyoxylate and 1-ethylcyclopentanol in pyridine) in 360 ml of diethyl ether at −40° C. After 2 hours of stirring at the temperature, the solution was warmed up to room temperature and stirred for further 8 hours. An aqueous solution of ammonium chloride was added for hydrolysis, followed by usual work-up procedure including extraction, washing, drying and concentration to give 102 g (crude yield 79%) of crude 1-ethylcyclopentyl 2-hydroxy-3-trimethylsilyl-2-trimethylsilylmethylpropionate.

reactant | chloromethyltrimethylsilane | 100 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | magnesium | 20 g | [Mg] | Mg
reactant | ethyl(1-ethylcyclopentyl) oxalate | 80 g | C(C(=O)[O-])(=O)OC1(C(CCC1)CC)CC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 360 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1-ethylcyclopentyl 2-hydroxy-3-trimethylsilyl-2-trimethylsilylmethylpropionate | 102 g | OC(C(=O)OC1(CCCC1)CC)(C[Si](C)(C)C)C[Si](C)(C)C | C17H36O3Si2
